US04077982
2,5-Diethyl-5-(2-fluorobenzyloxy)-1,3-dioxane
Using the procedure of Example 51, propionaldehyde and 2-ethyl-2-(2-fluorobenzyloxy)-1,3-propanediol were reacted, using hexane as solvent, to give, after separation by column chromatography, r-2-ethyl-5-ethyl-t-5-(2-fluorobenzyloxy)-1,3-dioxane, b.p. 89°-90°/0.01 mm, nD26 1.4895; and r-2-ethyl-5-ethyl-c-51 -(2-fluorobenzyloxy)-1,3-dioxane, b.p. 93°-95°/0.01 mm, nD26 1.4902. The ir and nmr spectra were consistent with the assigned structures.

reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | 2-ethyl-2-(2-fluorobenzyloxy)-1,3-propanediol | C(C)C(CO)(CO)OCC1=C(C=CC=C1)F | C12H17FO3
solvent | hexane | CCCCCC | C6H14
product | 2,5-Diethyl-5-(2-fluorobenzyloxy)-1,3-dioxane | C(C)C1OCC(CO1)(OCC1=C(C=CC=C1)F)CC | C15H21FO3
